US07423056B2
a.) 4-(1-Ethoxythiocarbonylsulfanylmethyl-2,2,2-trifluoro-1-hydroxy-ethyl)-5-oxo-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid ethyl ester (Scheme 4)
A 1M solution of Lithium bis(trimethylsilyl)amide in THF (LHMDS) (6.10 ml, 6.10 mmol) was added to anhydrous THF (4 ml) and the mixture was cooled to −30° C. under N2. Next, a solution of 5-Oxo-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid ethyl ester (1.0 g, 5.07 mmol) in THF (1 ml) was added dropwise over 15 minutes and the mixture was stirred for an additional 15 minutes. Next, a 0.5M solution of ZnCl2 (15.2 ml, 7.6 mmol) was added over 15 minutes and the reaction mixture was stirred for an additional 30 minutes. The reaction temperature was lowered to −70° C. and a solution of dithiocarbonic acid O-ethyl ester S-(3,3,3-trifluoro-2-oxo-propyl) ester (1.3 g, 5.59 mmol) in THF (1 ml) was added dropwise over 25-30 minutes. After 3 hours at −700C, a solution of acetic acid (2.5 ml) in toluene (7.5 ml) was added and the reaction mixture was warmed to 0° C. The reaction mixture was diluted with H2O (7.5 ml) and the organic layer separated, dried (MgSO4), and concentrated providing a oily brown residue that was purified by silica-gel chromatography using a gradient of ethyl acetate/hexanes (0% to 100% ethyl acetate) to give the subtitle product as an oil (533 mg, 24%).

reactant | Lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-Oxo-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid ethyl ester | 5.07 mmol, 1.0 g | C(C)OC(=O)N1CC2C(C1)CC(C2)=O | C10H15NO3
reactant | dithiocarbonic acid O-ethyl ester S-(3,3,3-trifluoro-2-oxo-propyl) ester | 5.59 mmol, 1.3 g | FC(C(CSC(OCC)=S)=O)(F)F | C6H7F3O2S2
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 7.5 ml | O | H2O
catalyst | ZnCl2 | 7.6 mmol, 15.2 ml | [Cl-].[Cl-].[Zn+2]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 6.10 mmol, 6.10 ml | C1CCOC1 | C4H8O
product | 4-(1-Ethoxythiocarbonylsulfanylmethyl-2,2,2-trifluoro-1-hydroxy-ethyl)-5-oxo-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid ethyl ester | 533 mg, 24% | C(C)OC(=O)N1CC2C(C1)C(C(C2)=O)C(C(F)(F)F)(O)CSC(=S)OCC | C16H22F3NO5S2
